US06723798B1
i) Preparation of 4-hydroxyphenethyl alcohol of formula (3a)
Methyl-4-hydroxyphenyl acetate (23.0 g, 139.0 mmol) was dissolved in THF (400 ml). After cooling to 0° C., lithium aluminum hydride (LAH; 7.9 g, 209.0 mmol) was added over 1 hr, stirred for 2 hrs at 0° C. and additionally for 8 hrs at room temperature. 1N aqueous HCl (300 ml) was added at 0° C. and the reaction mixture was extracted with ethylacetate (200 ml×3). The combined organic layer was washed with water (200 ml×2) and sat. NaCl (200 ml) and dried over MgSO4. The dried organic layer was evaporated and the residue was purified by fresh column chromatography on silica gel (hexane/ethylacetate=3/1, v/v) to obtain white solid of the desired product, 4-hydroxyphenethyl alcohol (16.3 g, 118.0 mmol, yield 85%).

reactant | Methyl-4-hydroxyphenyl acetate | 139.0 mmol, 23.0 g | C(C)(=O)OC1=C(C=C(C=C1)O)C | C9H10O3
reactant | lithium aluminum hydride | 209.0 mmol, 7.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | 1N, 300 ml | Cl | ClH
reactant | THF | 400 ml | C1CCOC1 | C4H8O
product | 4-hydroxyphenethyl alcohol | 118.0 mmol, 16.3 g, yield 85% | OC1=CC=C(CCO)C=C1 | C8H10O2
